US06753391B1
Preparation of 2-(2-Chloro-acetylamino)-2-methyl propionic acid
To a stirring mixture of 2-aminoisobutyric acid (165.8 g; 1.61 mol), sodium hydroxide (64.4 g; 1.61 mol) and 800 mL water, cooled to 50° C., was added chloroacetyl chloride (200 g; 1.77 mol) and then a solution of sodium hydroxide (70.8 g; 1.77 mol) in 143 mL water. The temperature was maintained between 5 to 10° C. during the additions. The reaction mixture was then allowed to warm to room temperature and the solution was acidified with 165 mL of concentrated aqueous HCl. The precipitated solid was filtered and dried under vacuum to afford 180.4 g (62%) of product.

reactant | 2-aminoisobutyric acid | 1.61 mol, 165.8 g | NC(C(=O)O)(C)C | C4H9NO2
reactant | sodium hydroxide | 1.61 mol, 64.4 g | [OH-].[Na+]
reactant | chloroacetyl chloride | 1.77 mol, 200 g | ClCC(=O)Cl | C2H2Cl2O
reactant | sodium hydroxide | 1.77 mol, 70.8 g | [OH-].[Na+]
reactant | HCl | 165 mL | Cl | ClH
solvent | water | 143 mL | O | H2O
solvent | water | 800 mL | O | H2O
product | 2-(2-Chloro-acetylamino)-2-methyl propionic acid | 180.4 g, 62% | ClCC(=O)NC(C(=O)O)(C)C | C6H10ClNO3
